US05675015
To a 500 mL capacity stainless steel autoclave equipped with a stirrer, external heating jacket and internal heating and cooling coils are added 5.0 g of (0.0082 mole) of 2-nitro-4-methoxy-2'-hydroxy-3'-t-butyl,5'-nonylazobenzene (nonyl group is an isomeric mixture)(purity 75%), 0.25 g (dry weight) of (4% Pd/C+1% Pt/C) catalyst, 3.2 g (about 4 equivalent) of tert-butylamine, 4.4 g (about 3 equivalent) of 50% aqueous hypophosphorous acid and 150 mL of methanol. The autoclave is purged with nitrogen gas and then hydrogen gas and then sealed and charged with hydrogen gas to a pressure of 53,000 Kg/m2. The reaction is stirred at room temperature and at 53,000 Kg/m2 pressure (recharging if necessary) for one hour. After one hour the temperature is raised to 50° C. and held at the same temperature and pressure for an additional 12 hours. Then the autoclave and its contents are cooled to 45°-47° C., removed and filtered through a Celite filter-aid pad to remove the catalyst. The catalyst and the residue on the filter pad are further washed with some tetrahydrofuran for complete recovery of the product. The organic solvents are removed on a rotary evaporator. The residue is diluted with about 500 mL of brine (saturated aqueous sodium chloride solution) and treated with hydrochloric acid dropwise until the Congo Red Indicator paper turns blue. The light purple insoluble liquid material (the desired product) is extracted with dichloromethane (200 mL), washed with brine (2×150 mL), dried (Na2SO4), filtered off and solvent is removed from the filtrate on a rotary evaporator to obtain 4.6 g of brown-purple colored viscous crude of 2-(2'-hydroxy-3'-t-butyl,5'-nonylphenyl)benzotriazole. After purifying by silica gel flash column eluting with heptane 2.93 g of nearly colorless liquid (yield 95%) is obtained. It shows a retention time of 27.3 min. in HPLC analysis and its FD-mass spectral analysis shows molecular ion peak at m/e 423.

reactant | 2-nitro-4-methoxy-2'-hydroxy-3'-t-butyl,5'-nonylazobenzene | 0.0082 mole, 5.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC)N=NC1=C(C(=CC(=C1)CCCCCCCCC)C(C)(C)C)O | C26H37N3O4
reactant | tert-butylamine | 3.2 g, about 4 equivalent | C(C)(C)(C)N | C4H11N
reactant | hypophosphorous acid | 4.4 g, about 3 equivalent | [PH2](=O)O | H3O2P
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | 2-(2'-hydroxy-3'-t-butyl,5'-nonylphenyl)benzotriazole | OC1=C(C=C(C=C1C(C)(C)C)CCCCCCCCC)N1N=C2C(=N1)C=CC=C2 | C25H35N3O
